US08026085B2
Experimental description: 270 μL dihydrojasmone was dissolved in 1.2 mL ethanol and added to 150 mL potassium phosphate buffer pH 8.0. Var2 was added to the mixture at a final concentration of 2 μM. The mixture was split in 4.8 mL aliquots into 15 mL scintillation vials equipped with a stir bar. 600 μL 10 mM NADPH in KPi buffer was added to each vial and stirred for 2 minutes. 600 μL cofactor regeneration solution containing 500 mM glucose-6-phosphate and 10 units/mL glucose-6-phosphate dehydrogenase were then added to each vial. The resulting mixtures were stirred at room temperature. After 36 hours, the reaction mixtures were joined together and extracted with chloroform (3×50 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (0-30% ethyl acetate/hexane) afforded the activated product (4-hydroxy-3-methyl-2-pentylcyclopent-2-enone, 222 mg). 210 mg (1.15 mmol) of activated product was dissolved in 2 mL dry dichloromethane (CH2Cl2) and a catalytic amount (4 drops) of ethanol was added to the solution. The solution was cooled to −78° C. (dry ice) and then 215 μL DAST (1.5 mmol) was added. The reaction was stirred in dry ice for 12 hours. The reaction mixture was then added with 5 mL saturated sodium bicarbonate (NaHCO3) and extracted with dichloromethane (3×15 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (0-30% ethyl acetate/hexane) afforded the fluorinated product, 4-fluoro-3-methyl-2-pentylcyclopent-2-enone (193 mg, 92% yield, yellow oil). 1H-NMR (300 MHz, CDCl3): δ 0.88 (t, J=6.6 Hz, 3H, CH3), δ 1.25-1.40 (m, 6H, CH2), δ 2.10 (d, J=2.1 Hz, 2H, CH3), δ 2.20 (t, J=7.1 Hz, 2H), δ 2.44-2.60 (m, 1H), δ 2.70-2.82 (m, 1H), δ 5.47 (dd, J=54.2 Hz, J=5.8, 1H); 13C-NMR (75 MHz, CDCl3): δ 13.7, 14.2, 22.6, 23.1, 27.9, 29.9, 31.9, 41.4 (d, J=19.6 Hz), δ 91.2 (d, J=174 Hz): 19F-NMR (282 MHz, CDCl3): δ −179.08 (ddd, J=51.88 Hz, J=21.43 Hz, J=9.3 Hz). HRMS (EI+): exact mass calculated for C11H17FO requires m/z 184.1263, found 184.1255.

reactant | dihydrojasmone | 270 μL | CCCCCC1=C(CCC1=O)C | C11H18O
reactant | potassium phosphate | 150 mL, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
product | 4-hydroxy-3-methyl-2-pentylcyclopent-2-enone | OC1C(=C(C(C1)=O)CCCCC)C | C11H18O2
